### PR TITLE
feat(ErdosProblems): formalize 423, 839

### LINKED ISSUE #722: Erdős Problem 423
### What is the conjecture
    
https://www.erdosproblems.com/423

  Let $a_1=1$ and $a_2=2$ and for $k\geq 3$ we choose $a_k$ to be the least integer $>a_{k-1}$ which is the sum of at least two consecutive terms of the sequence. What is the asymptotic behaviour of this sequence?
  

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### LINKED ISSUE #971: Erdős Problem 839
### What is the conjecture

https://www.erdosproblems.com/839

  Let $1\leq a_1<a_2<\cdots$ be a sequence of integers such that no $a_i$ is the sum of consecutive $a_j$ for $j<i$. Is it true that
$$\limsup \frac{a_n}{n}=\infty?$$
Or even
$$\lim \frac{1}{\log x}\sum_{a_n<x}\frac{1}{a_n}=0?$$

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ryantuck**
Followup to #3422, which formalized all remaining conjectures, but breaking out into a few manageable-sized PRs, split by category. See that original PR for the specific rigor applied to the AI pipeline to ensure these formalizations were produced up to a reasonable standard.

This PR contains three open Erdos problems that Claude categorized as `sequences_asymptotics`.

fixes #722
fixes #971

### CODE REVIEW

**Comment by mo271** [comment]
Thanks! 
Note that for 342 is already almost ready to merged: 
#3438

I picked one thing that was more idiomatic here and added it to the review there, so thanks for that!
Makes sense to compare them more closely to take the best of boths, but I think it is best to drop this problem from the pull request here.

File: FormalConjectures/ErdosProblems/342.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
...
+
+Does the Ulam sequence eventually have periodic differences?
+That is, do there exist $N$ and $p > 0$ such that
+$a(n + p + 1) - a(n + p) = a(n + 1) - a(n)$ for all $n \geq N$?
+-/
+@[category research open, AMS 5 11]
+theorem erdos_342.variants.periodic : answer(sorry) ↔
+    ∀ a : ℕ → ℕ, IsUlamSequence a →
+      ∃ N p : ℕ, 0 < p ∧ ∀ n, N ≤ n →
+        a (n + p + 1) - a (n + p) = a (n + 1) - a n := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/342.lean]: this is better done using `∀ᶠ m in atTop` as in #3438

**Comment by mo271** [comment]
when adding "fixes #[issue number]" in the pull request description it automatically links them to avoid duplicate work on it and the issues will get closed automatically when merged

**Comment by ryantuck** [comment]
@mo271 I've removed 342 from this PR, and have included the "fixes: NUM" syntax in subsequent related PRs.

File: FormalConjectures/ErdosProblems/839.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjecturesForMathlib.Data.Set.Density
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean]:
```suggestion
```

Those imports are automatic when inlcuding the `ProblemImports`

File: FormalConjectures/ErdosProblems/423.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+
+Let $a_1 = 1$ and $a_2 = 2$, and for $k \ge 3$ choose $a_k$ to be the least integer
+$> a_{k-1}$ which is the sum of at least two consecutive terms of the sequence. What is
+the asymptotic behaviour of this sequence?
+
+The sequence begins $1, 2, 3, 5, 6, 8, 10, 11, \ldots$ (OEIS A005243).
+
+Asked by Hofstadter (Erdős says Hofstadter was inspired by a similar question of Ulam).
+Bolan and Tang have independently proved that $a_n - n$ is nondecreasing and unbounded,
+so there are infinitely many integers not appearing in the sequence.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean]: Let's not repeat the problem here, those comments should go the definition of the sequence the corresponding conjectures/theorems.

File: FormalConjectures/ErdosProblems/423.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+Number theory day (Proc. Conf., Rockefeller Univ., New York, 1976), 1977, pp. 43–72.
+
+[ErGr80] Erdős, P. and Graham, R., *Old and new problems and results in combinatorial
+number theory*, Monographies de L'Enseignement Mathématique (1980).
+
+[Bolan] Bolan, M., *Hofstader–Ulam Sequence*,
+https://github.com/mjtb49/HofstaderUlam/blob/main/HofstaderUlamSequence.pdf
+
+[Tang] Tang, Q., *On Erdős Problem 423*,
+https://github.com/QuanyuTang/erdos-problem-423/blob/main/On_Erd%C5%91s_Problem_423.pdf
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean]:
```suggestion
*References:*
- [erdosproblems.com/423](https://www.erdosproblems.com/423)
- [Er77c] Erdős, P., *Problems and results on combinatorial number theory. III*,
Number theory day (Proc. Conf., Rockefeller Univ., New York, 1976), 1977, pp. 43–72.
- [ErGr80] Erdős, P. and Graham, R., *Old and new problems and results in combinatorial
number theory*, Monographies de L'Enseignement Mathématique (1980).
- [Bolan] Bolan, M., *Hofstader–Ulam Sequence*,
https://github.com/mjtb49/HofstaderUlam/blob/main/HofstaderUlamSequence.pdf
- [Tang] Tang, Q., *On Erdős Problem 423*,
https://github.com/QuanyuTang/erdos-problem-423/blob/main/On_Erd%C5%91s_Problem_423.pdf
-  [OEIS A5243](https://oeis.org/A5243)
```
not the added OEIS reference (it was mentioned before, now listed in the reference with link)

File: FormalConjectures/ErdosProblems/423.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+
+/--
+Erdős Problem 423 — nondecreasing variant [Bolan; Tang]:
+
+The sequence $a(n) - n$ is nondecreasing. This is a stronger structural property than
+the unboundedness stated in `erdos_423`, and was also proved independently by Bolan and
+Tang.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_423_nondecreasing :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean]:
```suggestion
theorem erdos_423.variants.nondecreasing :
```
there is a README.md in `FormalConjectures/ErdosProblems/` explaining the naming convention.

File: FormalConjectures/ErdosProblems/423.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+Let $a(1) = 1$, $a(2) = 2$, and for $k \ge 3$ let $a(k)$ be the least integer greater
+than $a(k-1)$ that is a sum of at least two consecutive terms of the sequence.
+Then $a(n) - n \to \infty$ as $n \to \infty$.
+
+Equivalently, there are infinitely many positive integers not in the range of $a$.
+This was proved independently by Bolan and Tang. The full asymptotic behaviour
+of the sequence remains an open question.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_423 :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean]:
```suggestion
theorem erdos_423.variants.unbounded :
```
this is not the main variant here!

File: FormalConjectures/ErdosProblems/423.lean
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean:1]: The problem with this file is that it doesn't contain the main question "What is the asymptotic behaviour of this sequence?"
There are plenty of example of how we handle this rather vague question in general but in this case there has been quite some recent development in the comment section https://www.erdosproblems.com/forum/thread/423

So the best approach here would to use the formulations conjecture and known bounds (upper and lower) from there. 

We I don't think we ever had added a file where the main question is missing and only the additional material is there. Quite often, we only do the main question.

File: FormalConjectures/ErdosProblems/423.lean [hunk 7]
```diff
@@ -0,0 +1,99 @@
...
+/-- The Hofstadter sequence (OEIS A005243): $a(1) = 1$, $a(2) = 2$, and for $k \ge 3$,
+    $a(k)$ is the least integer $> a(k-1)$ that equals the sum of at least two
+    consecutive terms from $\{a(1), \ldots, a(k-1)\}$. -/
+def IsHofstadterSeq (a : ℕ → ℕ) : Prop :=
+  a 1 = 1 ∧ a 2 = 2 ∧
+  ∀ k : ℕ, 3 ≤ k →
+    IsConsecutiveBlockSum a k (a k) ∧
+    a (k - 1) < a k ∧
+    ∀ m : ℕ, a (k - 1) < m → m < a k → ¬IsConsecutiveBlockSum a k m
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean:58]: it might make sense to add some test statements here to make sure we have formalised the correct sequence similar to how it is done in  https://github.com/google-deepmind/formal-conjectures/pull/3586


```suggestion

/-- The third term of the Hofstadter sequence is $a(3) = 3 = a(1) + a(2) = 1 + 2$. -/
@[category test, AMS 5 11]
theorem erdos_423.test.a3 : ∀ a : ℕ → ℕ, IsHofstadterSeq a → a 3 = 3 := by
  intro a ⟨ha1, ha2, hk⟩
  obtain ⟨⟨i, j, hi, hij, hjk, hsum⟩, _, _⟩ := hk 3 (by omega)
  -- The bounds force i = 1, j = 2
  have : i = 1 ∧ j = 2 := by omega
  obtain ⟨rfl, rfl⟩ := this
  simp only [show Finset.Icc 1 2 = {1, 2} from by decide,
    Finset.sum_pair (show (1 : ℕ) ≠ 2 from by decide), ha1, ha2] at hsum
  omega
  
/-- The fourth term of the Hofstadter sequence is $a(4) = 5 = a(2) + a(3) = 2 + 3$. -/
@[category test, AMS 5 11]
theorem erdos_423.test.a4 : ∀ a : ℕ → ℕ, IsHofstadterSeq a → a 4 = 5 := by
  sorry

```
for the second one the proof 
```lean
/-- The fourth term of the Hofstadter sequence is $a(4) = 5 = a(2) + a(3) = 2 + 3$. -/
@[category test, AMS 5 11]
theorem erdos_423.test.a4 : ∀ a : ℕ → ℕ, IsHofstadterSeq a → a 4 = 5 := by
  intro a ⟨ha1, ha2, hk⟩
  have ha3 : a 3 = 3 := erdos_423.test.a3 a ⟨ha1, ha2, hk⟩
  obtain ⟨⟨i, j, hi, hij, hjk, hsum⟩, hlt, hmin⟩ := hk 4 (by omega)
  -- j ≤ 3, i ≥ 1, j ≥ i+1. Possible: (1,2), (1,3), (2,3)
  -- a 4 > a 3 = 3. Sums: (1,2)→3, (2,3)→5, (1,3)→6. So a 4 ∈ {5,6}.
  have h_ij : (i = 1 ∧ j = 2) ∨ (i = 2 ∧ j = 3) ∨ (i = 1 ∧ j = 3) := by omega
  rcases h_ij with ⟨rfl, rfl⟩ | ⟨rfl, rfl⟩ | ⟨rfl, rfl⟩
  · -- (1,2): sum = a1 + a2 = 3, but a 4 > 3, contradiction
    simp only [show Finset.Icc 1 2 = {1, 2} from by decide,
      Finset.sum_pair (by decide : (1:ℕ) ≠ 2), ha1, ha2] at hsum
    rw [ha3] at hlt; omega
  · -- (2,3): sum = a2 + a3 = 5 ✓
    simp only [show Finset.Icc 2 3 = {2, 3} from by decide,
      Finset.sum_pair (by decide : (2:ℕ) ≠ 3), ha2, ha3] at hsum
    omega
  · -- (1,3): sum = a1+a2+a3 = 6, but 5 is also a sum (2,3), contradicting minimality
    have hIcc : Finset.Icc 1 3 = {1, 2, 3} := by decide
    rw [hIcc, Finset.sum_insert (by decide : (1:ℕ) ∉ ({2, 3} : Finset ℕ)),
      Finset.sum_pair (by decide : (2:ℕ) ≠ 3), ha1, ha2, ha3] at hsum
    -- hsum : a 4 = 1 + (2 + 3) = 6
    rw [ha3] at hlt
    have ha4_eq : a 4 = 6 := by omega
    have h3_lt_5 : a 3 < 5 := by omega
    have h5_lt_a4 : 5 < a 4 := by omega
    exfalso; apply hmin 5 h3_lt_5 h5_lt_a4
    refine ⟨2, 3, by omega, by omega, by omega, ?_⟩
    rw [show Finset.Icc 2 3 = {2, 3} from by decide,
      Finset.sum_pair (by decide : (2:ℕ) ≠ 3), ha2, ha3]
```
seems too long, but still good to have it as a test statement.

File: FormalConjectures/ErdosProblems/839.lean [hunk 8]
```diff
@@ -0,0 +1,77 @@
...
+A problem of Erdős [Er78f][Er92c].
+
+[Er78f] Erdős, P., *Problems in number theory and combinatorics*, Proc. Sixth Manitoba Conf. on
+Numerical Math. (1978), 35-58.
+
+[Er92c] Erdős, P., *Some of my favourite unsolved problems*, J. Combin. Theory Ser. A (1992).
+
+[Fr93] Freud, R., *Adding numbers — on a problem of P. Erdős*, James Cook Mathematical Notes
+(1993), 6199–6202.
+-/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean:30]: same comment as in 423 apply: 
use the usual list for References and don't repeat the problem statement and defintions here, but rather where there are defined.

File: FormalConjectures/ErdosProblems/839.lean [hunk 9]
```diff
@@ -0,0 +1,77 @@
...
+
+A problem of Erdős [Er78f][Er92c].
+
+[Er78f] Erdős, P., *Problems in number theory and combinatorics*, Proc. Sixth Manitoba Conf. on
+Numerical Math. (1978), 35-58.
+
+[Er92c] Erdős, P., *Some of my favourite unsolved problems*, J. Combin. Theory Ser. A (1992).
+
+[Fr93] Freud, R., *Adding numbers — on a problem of P. Erdős*, James Cook Mathematical Notes
+(1993), 6199–6202.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean]:
```suggestion
# Erdős Problem 839

*References:*
- [erdosproblems.com/839](https://www.erdosproblems.com/839)
- [Er78f] Erdős, P., *Problems in number theory and combinatorics*, Proc. Sixth Manitoba Conf. on
  Numerical Math. (1978), 35-58.
- [Er92c] Erdős, P., *Some of my favourite unsolved problems*, J. Combin. Theory Ser. A (1992).

See also [Erdős Problem 359](https://www.erdosproblems.com/359).
```

File: FormalConjectures/ErdosProblems/423.lean [hunk 10]
```diff
@@ -0,0 +1,99 @@
...
+Equivalently, there are infinitely many positive integers not in the range of $a$.
+This was proved independently by Bolan and Tang. The full asymptotic behaviour
+of the sequence remains an open question.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_423 :
+    ∀ a : ℕ → ℕ, IsHofstadterSeq a →
+    ∀ M : ℕ, ∃ N : ℕ, ∀ n : ℕ, N ≤ n → M + n ≤ a n := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean]: Regarding the `Equivalently, there are infinitely many positive integers not in the range of $a$.`
One could actually set this up as a test statement and proof equivalence. (I only quickly ask AlphaProof to produce a proof for this test statement.


```lean
@[category research solved, AMS 5 11]
theorem erdos_423 :
    ∀ a : ℕ → ℕ, IsHofstadterSeq a →
    ∀ M : ℕ, ∃ N : ℕ, ∀ n : ℕ, N ≤ n → M + n ≤ a n := by
  sorry

@[category research solved, AMS 5 11]
theorem erdos_423' :
    ∀ a : ℕ → ℕ, IsHofstadterSeq a →
    Set.Infinite (Set.range a)ᶜ := by
  sorry

@[category test, AMS 5 11]
theorem equivalence : type_of% erdos_423 ↔ type_of% erdos_423' := by
  constructor
  · -- Forward: a(n) - n → ∞ implies (range a)ᶜ is infinite
    intro h a ha
    by_contra hfin
    rw [Set.not_infinite] at hfin
    -- (range a)ᶜ is finite, hence bounded
    obtain ⟨ha1, ha2, hk⟩ := ha
    have hfin_bdd := hfin.bddAbove
    obtain ⟨B, hB⟩ := hfin_bdd
    -- ∀ m > B, m ∈ range a
    have hmem : ∀ m : ℕ, B < m → m ∈ Set.range a := by
      intro m hm; by_contra hc; exact Nat.not_le.mpr hm (hB hc)
    -- Use h with M = B + 2
    obtain ⟨N, hN⟩ := h a ⟨ha1, ha2, hk⟩ (B + 2)
    -- a is strictly increasing on {1,...}: extract this
    have ha_lt : ∀ k : ℕ, 1 ≤ k → a k < a (k + 1) := by
      intro k' hk'
      rcases Nat.eq_or_lt_of_le hk' with rfl | hk''
      · -- k' = 1: a 1 < a 2 from base case
        rw [ha1, ha2]; omega
      · -- k' ≥ 2: use recursive property
        exact (hk (k' + 1) (by omega)).2.1
    -- a is StrictMono on {1,...}: a i < a j for 1 ≤ i < j
    have ha_smono : ∀ i j : ℕ, 1 ≤ i → i < j → a i < a j := by
      intro i j hi hij
      induction j with
      | zero => omega
      | succ j ih =>
        rcases Nat.eq_or_lt_of_le (Nat.lt_succ_iff.mp hij) with heq | hlt
        · subst heq; exact ha_lt i (by omega)
        · exact Nat.lt_trans (ih hlt) (ha_lt j (by omega))
    -- a(n) ≤ n + B + 1 for n ≥ 1: pigeonhole
    replace hmem:.Icc (B+1) (B+2+N) ⊆(Finset.range (N + 1)).image a
    · use fun and μ=>(Finset.mem_Icc.1 μ).elim (hmem and ·|>.elim fun and R M=> Finset.mem_image.2 (by use and,List.mem_range.2 (by match hN and with | S=>omega)))
    · use (by valid ∘(((Nat.card_Icc _ _▸ Finset.card_mono hmem).trans Finset.card_image_le).trans_eq)) ( Finset.card_range _)
  · -- Backward: (range a)ᶜ infinite implies a(n) - n → ∞
    intro h a ha M
    obtain ⟨ha1, ha2, hk⟩ := ha
    -- a is strictly increasing on {1,...}
    have ha_lt : ∀ k : ℕ, 1 ≤ k → a k < a (k + 1) := by
      intro k' hk'
      rcases Nat.eq_or_lt_of_le hk' with rfl | hk''
      · rw [ha1, ha2]; omega
      · exact (hk (k' + 1) (by omega)).2.1
    have ha_smono : ∀ i j : ℕ, 1 ≤ i → i < j → a i < a j := by
      intro i j hi hij
      induction j with
      | zero => omega
      | succ j ih =>
        rcases Nat.eq_or_lt_of_le (Nat.lt_succ_iff.mp hij) with heq | hlt
        · subst heq; exact ha_lt i (by omega)
        · exact Nat.lt_trans (ih hlt) (ha_lt j (by omega))
    delta IsConsecutiveBlockSum at*
    specialize h a _
    · use ?_
      · simp_all(config := {singlePass:=1})[IsConsecutiveBlockSum]
      · omega
    choose A B using(h).exists_gt
    replace ha_lt:StrictMonoOn a (.Ici (1)) := fun and _ _ _ _=>(? _)
    · by_cases h: BddAbove ((a ·-by valid) ''.Ici 01)
      · obtain ⟨a, (i : 1 ≤a), _⟩:=Nat.sSup_mem (by repeat constructor) h
        replace h : ∀B≥a, (by apply_rules : ℕ → ℕ) B≥B+((by apply_rules : ℕ → ℕ) a-a)
        · exact (a.le_induction (a.add_sub_of_le ↑(i.rec ha1.ge fun and=>(ha_lt and (Nat.succ_pos _) (by constructor)).trans_le')).le fun and μ=>Nat.succ_add _ _▸(ha_smono _ _ (by valid) (by constructor)).trans_le')
        by_cases h: BddAbove ((fun B=> (by apply_rules : ℕ → _) B-B) ''.Ici 1)
        · replace h : ∀ x≥a, (by apply_rules : ℕ → ℕ) x = x+((by apply_rules : ℕ → ℕ) a-a)
          · refine fun and (H) =>le_antisymm (tsub_le_iff_left.1 (by convert le_csSup h ⟨ _,i.trans H, rfl⟩)) (by apply_rules)
          · rcases(B _).left ⟨ _,(h _).comp (le_of_lt) (Nat.le_sub_of_add_le (not_lt.mp (by·grind))) |>.trans (Nat.sub_add_cancel ((Nat.sub_le _ _).trans (le_of_lt (B _).2)))⟩
        · exact (Set.exists_mem_image.1 (not_bddAbove_iff.1 h M)).imp fun and ⟨a, C⟩ A B=>and.le_induction (lt_tsub_iff_right.1 C).le (fun R M=>((ha_smono _ _ (a.trans M) (by constructor))).trans_le') A B
      · exact (Set.exists_mem_image.1 (not_bddAbove_iff.1 h M)).imp fun and ⟨a, S⟩ A B=>B.rec (lt_tsub_iff_right.1 S).le fun and true => true.trans_lt (ha_smono _ _ (by valid) (by constructor))
    · classical apply_rules
```

File: FormalConjectures/ErdosProblems/423.lean [hunk 11]
```diff
@@ -0,0 +1,99 @@
...
+Then $a(n) - n \to \infty$ as $n \to \infty$.
+
+Equivalently, there are infinitely many positive integers not in the range of $a$.
+This was proved independently by Bolan and Tang. The full asymptotic behaviour
+of the sequence remains an open question.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_423 :
+    ∀ a : ℕ → ℕ, IsHofstadterSeq a →
+    ∀ M : ℕ, ∃ N : ℕ, ∀ n : ℕ, N ≤ n → M + n ≤ a n := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/423.lean]:
```suggestion
    ∀ M : ℕ, ∀ᶠ n in Filter.atTop, M + n ≤ a n 
```
Could use `∀ᶠ`, I suppose

File: FormalConjectures/ErdosProblems/839.lean [hunk 12]
```diff
@@ -0,0 +1,77 @@
...
+Erdős Problem 839 (Part 1) [Er78f][Er92c]:
+
+Let $1 \leq a_1 < a_2 < \cdots$ be a strictly increasing sequence of positive integers
+such that no $a_i$ is the sum of consecutive $a_j$ for $j < i$.
+Is it true that $\limsup a_n / n = \infty$?
+-/
+@[category research open, AMS 11]
+theorem erdos_839 : answer(sorry) ↔
+    ∀ (a : ℕ → ℕ), (∀ n, 1 ≤ a n) → StrictMono a → SumOfConsecutiveFree a →
+    ∀ M : ℝ, ∃ᶠ n in atTop, M < (a n : ℝ) / (n : ℝ) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean]: Better to use `limsup`, because closer to informal formulation
```suggestion
    atTop.limsup (fun n : ℕ => (a n : ℝ≥0∞) / n) = ⊤ := by
```
with `open scoped ENNReal` 

Or `limsup (fun n : ℕ => (a n : ℝ≥0∞) / n) atTop = ⊤`

File: FormalConjectures/ErdosProblems/839.lean [hunk 13]
```diff
@@ -0,0 +1,77 @@
...
+  sorry
+
+/--
+Erdős Problem 839 (Part 2, stronger) [Er78f][Er92c]:
+
+Let $1 \leq a_1 < a_2 < \cdots$ be a strictly increasing sequence of positive integers
+such that no $a_i$ is the sum of consecutive $a_j$ for $j < i$.
+Is it true that $\lim_{x \to \infty} \frac{1}{\log x} \sum_{a_n < x} \frac{1}{a_n} = 0$?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean:62]:
```suggestion
Is it true that $\lim_{x \to \infty} \frac{1}{\log x} \sum_{a_n < x} \frac{1}{a_n} = 0$?

This is equivalent to asking whether the range $\{a_1, a_2, \ldots\}$ has logarithmic density
zero (see `Set.HasLogDensity`).
```

Good usage of this, instead of the manual definition!

File: FormalConjectures/ErdosProblems/839.lean [hunk 14]
```diff
@@ -0,0 +1,77 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_839.variants.stronger : answer(sorry) ↔
+    ∀ (a : ℕ → ℕ), (∀ n, 1 ≤ a n) → StrictMono a → SumOfConsecutiveFree a →
+    Set.HasLogDensity (Set.range a) 0 := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean:72]: Please add a `--TODO` for the additional material
(This tries to preserve the invariant: if a file is present and there are no TODOs, then it reflects what was on erdosproblems.com at the time of writing...)

File: FormalConjectures/ErdosProblems/839.lean [hunk 15]
```diff
@@ -0,0 +1,77 @@
...
+/--
+Erdős Problem 839 (Part 1) [Er78f][Er92c]:
+
+Let $1 \leq a_1 < a_2 < \cdots$ be a strictly increasing sequence of positive integers
+such that no $a_i$ is the sum of consecutive $a_j$ for $j < i$.
+Is it true that $\limsup a_n / n = \infty$?
+-/
+@[category research open, AMS 11]
+theorem erdos_839 : answer(sorry) ↔
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean]:
```suggestion
theorem erdos_839.parts.i : answer(sorry) ↔
```
is the naming convention, I think

File: FormalConjectures/ErdosProblems/839.lean [hunk 16]
```diff
@@ -0,0 +1,77 @@
...
+
+/--
+Erdős Problem 839 (Part 2, stronger) [Er78f][Er92c]:
+
+Let $1 \leq a_1 < a_2 < \cdots$ be a strictly increasing sequence of positive integers
+such that no $a_i$ is the sum of consecutive $a_j$ for $j < i$.
+Is it true that $\lim_{x \to \infty} \frac{1}{\log x} \sum_{a_n < x} \frac{1}{a_n} = 0$?
+-/
+@[category research open, AMS 11]
+theorem erdos_839.variants.stronger : answer(sorry) ↔
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/839.lean]:
```suggestion
theorem erdos_839.parts.ii : answer(sorry) ↔
```
this is not from the additional material, hence a `parts` not a variant.

**Review by mo271 — COMMENTED** [review]
Many Thanks -- plenty good things in here. Most noticeable all math correct, often also idiomatic. Just some suggestions mainly on style. 
One major missing point: Problem 423 is missing main problem.

**Review by Paul-Lez — APPROVED** [review]
